US09233946B2
3-{[(5-Chloro-3-methyl-1-benzothiophen-2-yl)sulfonyl]amino}-2-hydroxybenzoic acid
A solution of 5-chloro-3-methyl-benzothiophene-2-sulfonyl chloride (17 mg, 0.060 mmol) and 3-aminosalicylic acid (14 mg, 0.090 mmol) in 1200 μL of water/dioxane (1:6) was shaken at 35° C. for 5 days. The product was purified by reversed phase chromatography (ACE C8, 4 μm, 21×50 mm, flow 25 ml/min, gradient: 0.1% TFA in water/MeCN over 6 minutes). The title compound was obtained in 72% yield (17.2 mg). 1H NMR (500 MHz, DMSO-d6) δ ppm 2.48 (s, 3 H) 6.85 (t, J=7.92 Hz, 1 H) 7.46 (dd, J=7.69, 1.64 Hz, 1 H) 7.55 (dd, J=8.66, 2.05 Hz, 1 H) 7.63 (dd, J=7.92, 1.64 Hz, 1 H) 8.00 (dd, J=2.05, 0.47 Hz, 1 H) 8.04 (dd, J=8.66, 0.47 Hz, 1 H) 10.17 (br. s., 1 H). MS (ESI+) m/z 398 [M+H]+.

reactant | 5-chloro-3-methyl-benzothiophene-2-sulfonyl chloride | 0.060 mmol, 17 mg | ClC=1C=CC2=C(C(=C(S2)S(=O)(=O)Cl)C)C1 | C9H6Cl2O2S2
reactant | 3-aminosalicylic acid | 0.090 mmol, 14 mg | NC1=C(C(C(=O)O)=CC=C1)O | C7H7NO3
solvent | water dioxane | 1200 μL | O.O1CCOCC1
product | 3-{[(5-Chloro-3-methyl-1-benzothiophen-2-yl)sulfonyl]amino}-2-hydroxybenzoic acid | 72% yield | ClC=1C=CC2=C(C(=C(S2)S(=O)(=O)NC=2C(=C(C(=O)O)C=CC2)O)C)C1 | C16H12ClNO5S2
